US08247403B2
(2) 9-(3,5-dimethylisoxazol-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride
A mixture of tert-butyl 9-(3,5-dimethylisoxazol-4-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (120 mg, 0.348 mmol), ethyl acetate (1 ml) and 4N hydrogen chloride-ethyl acetate solution (2 ml) was stirred at room temperature for 1 hr, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (67.4 mg, 69.0%) as a solid.

reactant | tert-butyl 9-(3,5-dimethylisoxazol-4-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.348 mmol, 120 mg | CC1=NOC(=C1C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C)C | C19H24N2O4
reactant | hydrogen chloride-ethyl acetate | 4N, 2 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 9-(3,5-dimethylisoxazol-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride | 67.4 mg, 69.0% | Cl.CC1=NOC(=C1C1=CC=CC=2CNCCOC21)C | InChI=1S/C14H16N2O2.ClH/c1-9-13(10(2)18-16-9)12-5-3-4-11-8-15-6-7-17-14(11)12;/h3-5,15H,6-8H2,1-2H3;1H
